US05208247
4-(Decyloxy)-3-(1,1-dimethylethyl)benzoic acid methyl ester
A mixture of 12.0 g of 3-(1,1-dimethylethyl)-4-hydroxybenzoic acid methyl ester, 11.15 g of 1-bromodecane, 9.95 g of potassium carbonate, 0.797 g of potassium iodide and 100 ml of 2-butanone is heated at reflux temperature for 40 hours. The reaction is cooled, filtered and the filtrate concentrated in vacuo. The residue is purified by chromatography (silica gel: 0-3% ethyl acetate/hexane) to give 18.49 g of the desired product as a light yellow oil.

reactant | 3-(1,1-dimethylethyl)-4-hydroxybenzoic acid methyl ester | 12.0 g | COC(C1=CC(=C(C=C1)O)C(C)(C)C)=O | C12H16O3
reactant | 1-bromodecane | 11.15 g | BrCCCCCCCCCC | C10H21Br
reactant | potassium carbonate | 9.95 g | C([O-])([O-])=O.[K+].[K+]
catalyst | potassium iodide | 0.797 g | [I-].[K+]
solvent | 2-butanone | 100 ml | CC(CC)=O | C4H8O
product | 4-(Decyloxy)-3-(1,1-dimethylethyl)benzoic acid methyl ester | 18.49 g | COC(C1=CC(=C(C=C1)OCCCCCCCCCC)C(C)(C)C)=O | C22H36O3
